US07648997B2
To the 3-{[3-(butyrylamino)[1,5]naphthyridin-4-yl]amino}propyl acetate hydrochloride prepared in Part D was added ethanol (165 mL) and 2 M sodium hydroxide (62.0 mL, 124 mmol). The resulting solution was heated at 60° C. for 7 hours, and then was stirred at room temperature overnight. The solution was concentrated, and the resulting residue was dissolved in dichloromethane (250 mL) and washed with water (125 mL). The aqueous layer was extracted with dichloromethane (75 mL). The combined organic layers were washed with brine (100 mL), dried over magnesium sulfate, filtered, and concentrated to provide 9.24 g of 3-(2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)propan-1-ol as a brown oil.

reactant | 3-{[3-(butyrylamino)[1,5]naphthyridin-4-yl]amino}propyl acetate hydrochloride | Cl.C(C)(=O)OCCCNC1=C(C=NC2=CC=CN=C12)NC(CCC)=O
reactant | sodium hydroxide | 124 mmol, 2 M, 62.0 mL | [OH-].[Na+]
solvent | ethanol | 165 mL | C(C)O | C2H6O
product | 3-(2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)propan-1-ol | 9.24 g | C(CC)C=1N(C2=C(C=NC=3C=CC=NC23)N1)CCCO | C15H18N4O
